### PR TITLE
[Merged by Bors] - feat(CategoryTheory): constant functors are accessible, accessibility is preserved by composition

### PR DESCRIPTION
**Pull request by dagurtomas**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Presentable/IsCardinalFiltered.lean [hunk 1]
```diff
@@ -79,6 +79,13 @@ lemma of_equivalence {J' : Type u'} [Category.{v'} J'] (e : J ≌ J') :
     IsCardinalFiltered J' κ where
   nonempty_cocone F hA := ⟨e.inverse.mapCoconeInv (cocone (F ⋙ e.inverse) hA)⟩
 
+include κ in variable (J κ) in
+lemma nonempty : Nonempty J := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Presentable/IsCardinalFiltered.lean]: There would be a more basic proof using `isFiltered_of_isCardinalFiltered` below.

File: Mathlib/CategoryTheory/Presentable/Basic.lean [hunk 2]
```diff
@@ -93,6 +93,18 @@ instance {E : Type u₃} [Category.{v₃} E] (F : C ⥤ D) (G : D ⥤ E)
 
 instance [PreservesColimitsOfSize.{w, w} F] : F.IsCardinalAccessible κ where
 
+instance (A : C) : IsCardinalAccessible ((Functor.const C).obj A) κ where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Presentable/Basic.lean:97]: Could you add the following (and the dual result) by line 234 in `Limits.Constructions.EventuallyConstant`:
```lean
noncomputable def isColimitOfIsIso (c : Cocone F) (hc : ∀ (j : J) (_ : i₀ ⟶ j), IsIso (c.ι.app j)) :
    IsColimit c :=
  IsColimit.ofIsoColimit h.isColimitCocone (by
    haveI := hc i₀ (𝟙 i₀)
    refine Cocones.ext (asIso (c.ι.app i₀)) (fun j ↦ ?_)
    let i := IsFiltered.max i₀ j
    let α : i₀ ⟶ i := IsFiltered.leftToMax _ _
    let β : j ⟶ i := IsFiltered.rightToMax _ _
    dsimp
    rw [← c.w α, ← c.w β, h.coconeιApp_eq j _ β α, Category.assoc,
      isoMap_inv_hom_id_assoc])
```
so that the proof here would become:
```lean
instance (A : C) : IsCardinalAccessible ((Functor.const C).obj A) κ where
  preservesColimitOfShape J _ _ :=
    { preservesColimit {F} :=
        { preserves _ := ⟨by
            have := IsCardinalFiltered.nonempty J κ
            exact Functor.IsEventuallyConstantFrom.isColimitOfIsIso
              (i₀ := Classical.arbitrary _)
              (fun _ _ ↦ by dsimp; infer_instance) _
              (fun _ _ ↦ by dsimp; infer_instance)⟩ } }
```

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Presentable/Basic.lean:97]: Done
